US04073770
1-ethyl-2,2,4-trimethyl decahydroquinoline was prepared by the reaction of the intermediate saturated decahydroquinoline with the alkyl halide. 36.3 grams (0.2 mole) of 2,2,4-trimethyl decahydroquinoline of about 76% cis structure was placed into a reactor vessel equipped for heating and agitation. 15.6 grams (0.1 mole) of iodoethane was added dropwise to the reactor vessel. The mix was heated to 105° C. while stirring for 3 hours. A thick slurry formed which was filtered out and washed wih acetone. The acetone wash liquid was then concentrated and distilled using a 3 inch Vigreaux column to yield 7.1 grams of a product boiling at 58° - 60° C. at 0.25 mm Hg. The NMR spectra of the product was consistent with the desired product, 1-ethyl-2,2,4-trimethyl decahydroquinoline. Calculated carbon, hydrogen, nitrogen content for the formula C14H27N is 80.31% carbon, 13.00% hydrogen, and 6.69% nitrogen while the measured contents were 79.93% carbon, 13.54% hydrogen, and 6.35% nitrogen respectively.

reactant | decahydroquinoline | N1CCCC2CCCCC12 | C9H17N
reactant | 2,2,4-trimethyl decahydroquinoline | 0.2 mole, 36.3 grams | CC1(NC2CCCCC2C(C1)C)C | C12H23N
reactant | iodoethane | 0.1 mole, 15.6 grams | ICC | C2H5I
product | 1-ethyl-2,2,4-trimethyl decahydroquinoline | C(C)N1C(CC(C2CCCCC12)C)(C)C | C14H27N
